US09216965B2
Step 5: 6-(tert-butylsulfonyl)-4-chloro-7-fluoroquinoline/6-(tert-butylsulfonyl)-4-chloro-5-fluoroquinoline.
A mixture of 6-(tert-butylthio)-4-chloro-7-fluoroquinoline and 6-(tert-butylthio)-4-chloro-5-fluoroquinoline (21.24 g, 79 mmol) and oxone (48.4 g, 79 mmol) in EtOAc (200 ml) and water (200 ml) was stirred at RT overnight. LCMS showed sulfoxide as well as sulfone. Added an additional 15 g of Oxone and stirred for 3 hours; the sulfoxide was still present. Added 15 g more of Oxone and stirred for 3 hours more. Sulfoxide was still present. Added 5 g more of Oxone and stirred overnight. Note each time more Oxone was added the amounts of EtOAc and water needed to be increased as well. The final amounts of solvent were ˜500 mL EtOAc and ˜500 mL water. The layers were separated and the aqueous layer was extracted once with ethyl acetate. The combined organics were filtered and concentrated. Split material into 2 batches for purification. Each batch was purified as follows: The crude sample was purified via Isco normal phase chromatography (330 g Gold column, 0%-20%, E/H). This purification yielded separation of the regioisomers. The two batches of purified products were recombined. Peak 1 was the 6-(tert-butylthio)-4-chloro-7-fluoroquinoline product (9.86 g) as a creamy white solid. 1H NMR (ACETONITRILE-d3) δ ppm 8.96 (d, 1H), 8.77 (d, J=7.3 Hz, 1H), 7.99 (d, J=11.4 Hz, 1H), 7.74 (d, J=4.8 Hz, 1H), 1.41 (d, J=1.0 Hz, 9H). MS: m/z: 302.0 [M+H]+. Peak 2 was the 6-(tert-butylsulfonyl)-4-chloro-5-fluoroquinoline product (1.71 g) as a white powder. 1H NMR (ACETONITRILE-d3) δ ppm 8.94 (d, 1H), 8.04-8.15 (m, 2H), 7.75 (d, J=4.8 Hz, 1H), 1.41 (d, J=1.3 Hz, 9H). MS: m/z: 302.0 [M+H]+.

reactant | 6-(tert-butylthio)-4-chloro-7-fluoroquinoline | C(C)(C)(C)SC=1C=C2C(=CC=NC2=CC1F)Cl | C13H13ClFNS
reactant | 6-(tert-butylthio)-4-chloro-5-fluoroquinoline | 79 mmol, 21.24 g | C(C)(C)(C)SC=1C(=C2C(=CC=NC2=CC1)Cl)F | C13H13ClFNS
reactant | oxone | 79 mmol, 48.4 g | OOS(=O)[O-].[K+]
reactant | Oxone | 15 g | OOS(=O)[O-].[K+]
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | water | 200 ml | O | H2O
solvent | water | ˜500 mL | O | H2O
solvent | EtOAc | ˜500 mL | CCOC(=O)C | C4H8O2
product | 6-(tert-butylsulfonyl)-4-chloro-7-fluoroquinoline 6-(tert-butylsulfonyl)-4-chloro-5-fluoroquinoline | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1F)Cl.C(C)(C)(C)S(=O)(=O)C=1C(=C2C(=CC=NC2=CC1)Cl)F | 2C13H13ClFNO2S
